US09422292B2
An round bottomed flask was charged with crude 3-(2-aminophenylamino)-3-methylbutanoic acid (2.19 g, 10.52 mmol), HOBT (1.932 g, 12.62 mmol), EDC (2.419 g, 12.62 mmol), and a stirbar. DMF (20 mL, 0.5 M) was added, and the solution was stirred at rt overnight. The solution was diluted with water, extracted three times with methylene chloride, dried with sodium sulfate, concentrated with celite, and purified by silica gel chromatography (eluting with hexanes/ethyl acetate/1% isopropanol) to yield 4,4-dimethyl-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one as a yellow amorphous solid (0.697 g, 3.66 mmol, 35%).

reactant | 3-(2-aminophenylamino)-3-methylbutanoic acid | 10.52 mmol, 2.19 g | NC1=C(C=CC=C1)NC(CC(=O)O)(C)C | C11H16N2O2
reactant | HOBT | 12.62 mmol, 1.932 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 12.62 mmol, 2.419 g
reactant | DMF | 0.5 M, 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4,4-dimethyl-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one | 3.66 mmol, 0.697 g, 35% | CC1(NC2=C(NC(C1)=O)C=CC=C2)C | C11H14N2O
